US08349824B2
The product was prepared in the same manner as described in example 66 using 4-(azetidine-1-carbonyl)-N-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxamide (150 mg, 371 μmol) and 5-methylpyridin-3-ylboronic acid (76.2 mg, 557 μmol) as starting materials. The crude material was applied on silicagel and purified by flash chromatography over a 50 g NH2-silicagel column using heptane/ethyl acetate 20-100% as eluent affording 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid [2-(5-methyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide (90 mg, 19.4%) as a light brown solid. mp: 262-264° C., MS: m/z=417.3 (M+H+)

reactant | 4-(azetidine-1-carbonyl)-N-(2-bromo-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1-methyl-1H-pyrazole-5-carboxamide | 371 μmol, 150 mg | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=CC=2N(C=C1)N=C(N2)Br)C | C15H14BrN7O2
reactant | 5-methylpyridin-3-ylboronic acid | 557 μmol, 76.2 mg | CC=1C=C(C=NC1)B(O)O | C6H8BNO2
product | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid [2-(5-methyl-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide | 90 mg, 19.4% | CC=1C=C(C=NC1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C)=N1 | C21H20N8O2
